US04532248
β-n-Propoxyethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(3-nitrophenyl)-pyridine-5-carboxylate
15.1 g (0.1 mol) of 3-nitrobenzaldehyde, together with 18.8 g (0.1 mol) of β-n-propoxyethyl acetoacetate and 10.2 g (0.1 mol) of 2-amino-1-nitro-prop-1-ene in 150 ml of ethanol, were heated uder reflux for 6 hours. After cooling, the solvent was distilled off in vacuo, and the oily residue was taken up in a small amount of chloroform and was chromatographed on a silica gel column, using chloroform with the addition of methanol. The fractions containing the product were concentrated, the residue was taken up in a small amount of isopropanol, and the nitrodihydropyridine crystallized in yellow crystals of melting point 161° C.

reactant | 3-nitrobenzaldehyde | 0.1 mol, 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | β-n-propoxyethyl acetoacetate | 0.1 mol, 18.8 g | C(CC(=O)C)(=O)OCCOCCC | C9H16O4
reactant | 2-amino-1-nitro-prop-1-ene | 0.1 mol, 10.2 g | NC(=C[N+](=O)[O-])C | C3H6N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | β-n-Propoxyethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(3-nitrophenyl)-pyridine-5-carboxylate | CC=1NC(=C(C(C1[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCOCCC)C | C19H23N3O7
